US09428456B2
(5.001b): 6-Trifluoromethyl-pyridine-2-carboxylic acid (6-chloro-pyrimidin-4-yl)-amide
To a solution of 4-amino-6-chloropyrimidine (230 mg, 1.78 mmol) in DCM (15 mL) is added 6-(trifluoromethyl)picolinoyl chloride (276 mg, 1.78 mmol) and DIPEA (0.912 ml, 5.33 mmol). The mixture is stirred overnight at RT. The mixture is diluted with DCM (10 mL), washed with saturated NaHCO3 solution (25 mL). The organic layer is dried over MgSO4 and evaporated under reduced pressure. The residue is purified by prep HPLC E, delivering the title compound as a yellowish solid (102 mg, 19%); LC-MS A: tR=0.89 min; [M+H]+=302.92.

reactant | 4-amino-6-chloropyrimidine | 1.78 mmol, 230 mg | NC1=NC=NC(=C1)Cl | C4H4ClN3
reactant | 6-(trifluoromethyl)picolinoyl chloride | 1.78 mmol, 276 mg | FC(C1=CC=CC(=N1)C(=O)Cl)(F)F | C7H3ClF3NO
reactant | DIPEA | 5.33 mmol, 0.912 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-Trifluoromethyl-pyridine-2-carboxylic acid (6-chloro-pyrimidin-4-yl)-amide | ClC1=CC(=NC=N1)NC(=O)C1=NC(=CC=C1)C(F)(F)F | C11H6ClF3N4O
